US07459472B2
To a solution of 4-Hydroxy-4′-nitro-biphenyl-3-carboxylic acid (2.0 g, 7.71 mmol) in acetone was added K2CO3(2.34 g, 16.9 mmol) and Mel (4.3 g, 30.8 mmol) and refluxed for 12 h. Reaction mixture was diluted with EtOAc and filtered, filtrate was washed with water brine and dried over Na2SO4. Solvent was removed under reduced pressure and silicagel column chromatography gave pure 4-Methoxy-4′-nitro-biphenyl-3-carboxylic acid methyl ester (1.9 g).

reactant | 4-Hydroxy-4′-nitro-biphenyl-3-carboxylic acid | 7.71 mmol, 2.0 g | OC1=C(C=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C13H9NO5
reactant | K2CO3 | 16.9 mmol, 2.34 g | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetone | CC(=O)C | C3H6O
product | 4-Methoxy-4′-nitro-biphenyl-3-carboxylic acid methyl ester | 1.9 g | COC(=O)C=1C=C(C=CC1OC)C1=CC=C(C=C1)[N+](=O)[O-] | C15H13NO5
